Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ___
 
Allergies: 
cefepime / Advil / antibiotics - due to C. diff -Must use oral 
vancomycin with ALL ABX
 
Attending: ___.
 
Chief Complaint:
bright red bleeding per rectum x1
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with PMHx significant for moderate to severe osteoarthritis 
and recurrent severe c diff colitis presenting with 1 episode of 
painless hematochezia from home.
 Pt is with her family friend ___ at bedside. States that this 
morning in her home in ___ she was getting help from 
family friend assisting with toileting when they noticed a 
"coffee mug" sized volume of thickened bright red blood pass. 
She noted that prior to this episode she had been in her usual 
state of health and no illness or sick contacts. She had some 
urgency prior to passing this volume of blood w/o stool. 
 This is the first time this had happened. She does endorse some 
mild chronic LLQ intermittent pain that is dull and nonspecific. 
She is not on anticoagulation and takes no ASA or nsaid. She 
denies any abdominal pain with BM and this particular episode. 
Of note she states that 3 weeks ago she was in her yard and cut 
her hand on her iron fence. She was admitted to the ED and 
received stiches to the palm of her right hand and a 5 day 
course of cephalexin. 
  She denies any changes in her bowel movements, but endorses 
intermittent constipation which responds to prn PR suppository.
  Denies chest pain, sob, palpitations, nausea, vomiting, fever, 
chills, light headedness, dizziness or syncope. Denies increase 
in urinary frequency, dysuria or foul odor.  States her last 
colonoscopy was many years ago. No personal cancer history or 
abnormal colonoscopies. Endorses some diminished appetite x3-4 
months.

 
Past Medical History:
  
PAST MEDICAL & SURGICAL HISTORY: (per OMR, unable to verify with 
patient)  
- Cefepime Toxicity requiring Dialysis  
- Non-convulsive status epilepticus  
- Anemia  
- Osteomyelitis  
- Hypertension  
- Subdural hematoma s/p burrhole in ___  
- osteoarthritis  
- shingles infection in ___  

 
Social History:
___
Family History:
 Son passed away due to "choking episode" per ___ 
records 
 
Physical Exam:
ADMISSION EXAM: 

 Vitals- 97.7 90 105/58 18 96% RA 
 General:  AOx3 NAD. very pleasant
 HEENT:  EMOI, PERRLA. conjunctiva non injected w/o pallor. MMM. 

 Neck: supple NT. Normal ROM. No carotid bruit
 CV: RRR no MGR
 Lungs:  CTA B/L w/o moderate chest wall excursion. ?minimal 
dependent rales b/l
 Abdomen: +BS, infrequent. Non distended. Possible minimal LLQ 
tenderness. 
 GU:  no foley
 Ext:  thin, some ___ ecchymoses. Healing right palm 
laceration-w/o e/o cellulitis or infection. Pulses radial and dp 
2+ b/l
 Neuro:  CN II-XII intact
 Skin:  as above

DISCHARGE EXAM: 

 Vitals- 97.7 90 105/58 18 96% RA 
 General:  AOx3 NAD. very pleasant
 HEENT:  EMOI, PERRLA. conjunctiva non injected w/o pallor. MMM. 

 Neck: supple NT. Normal ROM. No carotid bruit
 CV: RRR no MGR
 Lungs:  CTA B/L w/o moderate chest wall excursion. ?minimal 
dependent rales b/l
 Abdomen: +BS, infrequent. Non distended. Possible minimal LLQ 
tenderness. 
 GU:  no foley
 Ext:  thin, some ___ ecchymoses. Healing right palm 
laceration-w/o e/o cellulitis or infection. Pulses radial and dp 
2+ b/l
 Neuro:  CN II-XII intact
 Skin:  as above
 
Pertinent Results:
ADMISSION LABS: 

___ 02:59PM   LACTATE-1.1
___ 12:20PM URINE  HOURS-RANDOM
___ 12:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-MOD
___ 12:20PM URINE  RBC-<1 WBC-25* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 11:17AM   GLUCOSE-79 UREA N-17 CREAT-0.9 SODIUM-137 
POTASSIUM-4.6 CHLORIDE-104 TOTAL CO2-23 ANION GAP-15
___ 11:17AM   estGFR-Using this
___ 11:17AM   estGFR-Using this
___ 11:17AM   WBC-10.1* RBC-2.96* HGB-9.9* HCT-30.7* 
MCV-104* MCH-33.4* MCHC-32.2 RDW-11.9 RDWSD-45.0
___ 11:17AM   NEUTS-69.1 LYMPHS-17.3* MONOS-10.0 EOS-2.1 
BASOS-1.0 IM ___ AbsNeut-6.97*# AbsLymp-1.75 AbsMono-1.01* 
AbsEos-0.21 AbsBaso-0.10*
___ 11:17AM   PLT COUNT-236
___ 11:17AM   ___ PTT-30.2 ___
___ 11:00AM   GLUCOSE-73 UREA N-17 CREAT-0.9 SODIUM-134 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-18* ANION GAP-17

PERTINENT STUDIES: 

___ ABD & PELVIS WITH CO
IMPRESSION:
1. Colitis of the descending and sigmoid colon, which is likely 
infectious or
inflammatory, ischemic colitis is included in the differential 
diagnosis.  No
evidence of free air or free fluid in the abdomen or pelvis.
2. Mild diverticulosis of the sigmoid colon without evidence of
diverticulitis.
3. Moderate inferior endplate compression fracture of L3 is 
minimally
increased from ___.  No additional or new fractures are 
identified.

BLOOD CULTURES NO GROWTH TO DATE

DISCHARGE LABS: 

___ 07:45AM BLOOD WBC-9.1 RBC-3.18* Hgb-10.3* Hct-32.7* 
MCV-103* MCH-32.4* MCHC-31.5* RDW-11.9 RDWSD-45.0 Plt ___
 
Brief Hospital Course:
  Ms. ___ is ___ yo female w/pmhx s/f moderate-severe 
OA and recurrent c diff colitis (last ___ req. ICU) who 
presented from home with single episode of hematochezia in AM, 
HD stable, likely ___ diverticular bleed with need for 
infectious rule out and monitoring of h/h.

#GIB
Most likely lower diverticular bleed or internal hemorrhoid. 
Given CT findings oof diverticulosis w/o evidence of 
diverticulitis was most likely. Pt w/o hx of inflammatory bowel 
disease or colon cancer, though has not had colonoscopy in many 
years. These are less likely given associated urgency and 
abruptness of symptoms w/o any other constitutional symptoms. 
Rapid UGIB less likely pt without hx of peptic/duodenal ulcer 
and no sx of Epigastric discomfort. No excess nsaid or ASA use 
and h/h trend on admission stable and improved w/o intervention.
While patient has had no infectious symptoms, recent sick 
contacts, or antibiotics, given nonspecific findings of colitis 
in setting hematochezia and her history of severe c diff c/b 
septic shock it is important to consider infectious causes, 
however suspicion is very low at this time. Patient w/history of 
c diff colitis following short course of cipro exposure. Given 
x1 in ED which we immediately discontinued once on the floor. 
Ms. ___ remained afebrile and without abdominal 
complaints throughout her admission. There is some mild LLQ 
chronic abdominal pain which is intermittent which may be 
followed up as transitional issue w/r/t colonoscopy as 
outpatient.

#Asymptomatic Bacturia
Patient AOx3 w/o hx of increased frequency, urgency or dysuria. 
Prior admissions w/UCx growing yeast w/o specific bacterial 
speciation. Did not give abx as no alteration in mental status, 
functional capacity prior to admission or symptoms prior to or 
during admission. Would follow up urine culture as outpatient. 

#CHRONIC ISSUES:

#Anemia
Cont. Ascorbic Acid ___ mg PO BID 

#Osteoarthritis 
Cont. Lidocaine 5% Patch 1 PTCH TD QAM 
Cont. TraMADOL (Ultram) 50 mg PO TID 
Cont. Vitamin D 1000 UNIT PO BID 
Cont. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 

#Constipation
Cont. Senna 8.6 mg PO BID:PRN Constipation 
Cont. Bisacodyl ___AILY:PRN Constipation 

#Diminished Appetite:
Cont. Mirtazapine 7.5 mg PO QHS

#Recurrent ___
Cont. Miconazole 2% Cream 1 Appl TP BID to affected areas 

#Other OTC Supplements: 
- Cont. Non formulary ___ 500 mg (cranberry fruit 
concentrate) oral BID 

*****TRANSITION ISSUES*****
# Code Status: FULL (confirmed)
# Emergency Contact/HCP: Granddaughter: ___ ___
# F/up with Dr. ___
# Obtain outpatient laboratory work to monitor anemia on 
___
# Follow up urine culture.
# Consider checking a Guaiac or C.Diff or stool cultures if has 
more symptoms in the outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
2. Ascorbic Acid ___ mg PO BID 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
4. TraMADOL (Ultram) 50 mg PO QID 
5. Vitamin D 1000 UNIT PO BID 
6. Bisacodyl ___AILY:PRN Constipation 
7. ___ 500 mg (cranberry fruit concentrate) 500 mg oral BID 

8. Miconazole 2% Cream 1 Appl TP BID 
9. Senna 8.6 mg PO BID:PRN Constipation 
10. Mirtazapine 7.5 mg PO QHS 
11. Duloxetine 20 mg PO DAILY 
12. diclofenac sodium 1 % topical QID: PRN pain 

 
Discharge Medications:
1. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain 
2. Ascorbic Acid ___ mg PO BID 
3. Bisacodyl ___AILY:PRN Constipation 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. Miconazole 2% Cream 1 Appl TP BID 
6. Mirtazapine 7.5 mg PO QHS 
7. Senna 8.6 mg PO BID:PRN Constipation 
8. TraMADOL (Ultram) 50 mg PO TID 
9. Vitamin D 1000 UNIT PO BID 
10. ___ 500 mg (cranberry fruit concentrate) 500 mg oral 
BID 
11. Outpatient Lab Work
D64.9 Anemia  CBC, Chem 7 on ___
Send to ___
Fax: ___ 
12. diclofenac sodium 1 % TOPICAL QID: PRN pain 
13. Duloxetine 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Diverticular Bleeding

Secondary: Osteoarthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 

  You were admitted to the ___ 
following a single episode of bright red bleeding per rectum. 
Following an assessment in the emergency department we felt that 
it would be best to observe you overnight to monitor for any 
subsequent episodes of bleeding and your blood pressure. 
  You had no further episodes of bleeding on this admission and 
you remained stable throughout your admission. You exams and 
laboratory results were very reassuring. 
  With respect to the source of your bleeding, imaging revealed 
"diverticulosis" with some non specific inflammation. As we 
discussed bleeding is very common and often self limited with 
diverticulosis. It will be very important for you to follow up 
with your family physician, ___ ___ days to recheck 
your blood work. 

We are giving you a script to check your lab work on ___

Please call your doctor if you have any more bleeding.

  Ce fut un plaisir de prendre part à ___, Mme 
___ année!

Best, 

Your ___ Deaconess ___ Team
 
Followup Instructions:
___